US07622492B2
Di-tert-butyl dicarbonate (13.56 g, 62.1 mmol) was added in one portion to a cooled (0° C.) solution of 2,5-dichloro-phenylhydrazine (Aldrich; 10.00 g, 56.5 mmol) in methanol (130 mL). The reaction mixture was stirred at 0° C. for 10 min, then the cooling bath was removed and the solution was stirred at room temperature for 3 h. The solvent was evaporated, and the residue was co-evaporated with hexane. A solution of 5% ethyl acetate/hexanes was added and the glass was scratched to give a solid. The mixture was stirred in an ice-bath at 0° C. for 1 h, then the solid was filtered off, washed with hexane, and dried under high vacuum to give N′-(2,5-dichloro-phenyl)-hydrazinecarboxylic acid tert-butyl ester (8.68 g, 55%) as a tan solid.

reactant | Di-tert-butyl dicarbonate | 62.1 mmol, 13.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,5-dichloro-phenylhydrazine | 56.5 mmol, 10.00 g | ClC1=C(C=C(C=C1)Cl)NN | C6H6Cl2N2
solvent | methanol | 130 mL | CO | CH4O
product | N′-(2,5-dichloro-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 8.68 g, 55% | C(C)(C)(C)OC(=O)NNC1=C(C=CC(=C1)Cl)Cl | C11H14Cl2N2O2
